US09056874B2
2-((5,7-Dimethyl-1H-indol-4-yl)methyl)-7-fluoro-1H-benzo[d]imidazole-5-carbonitrile
Zinc cyanide (44 mg, 0.375 mmol) was weighed into a 50 mL flask, a degassed solution of 5-bromo-2-((5,7-dimethyl-1H-indol-4-yl)methyl)-7-fluoro-1H-benzo[d]imidazole (45 mg, 0.121 mmol) in DMF (4 mL) was added followed by Pd(Ph3P)4 (14 mg, 0.012 mmol). The reaction mixture was heated at 120° C. for 2 hours. Additional portions of zinc dust, dppf, and Pd2(dba)3 were added followed by heating to 130° C. until no starting material remained by LC-MS. The reaction was diluted with EtOAc and a saturated solution of NaHCO3, then filtered through a Celite® pad. The filtrate was extracted with EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated to dryness. The residue was purified by reverse phase HPLC (HC-B) to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.98 (br. s., 1H) 7.78 (s, 1H) 7.52-7.67 (m, 1H) 7.48 (d, J=10.61 Hz, 1H) 7.24 (t, J=2.78 Hz, 1H) 6.76 (s, 1H) 6.46 (dd, J=3.03, 2.02 Hz, 1H) 4.44 (s, 2H) 2.41 (s, 3H) 2.36 (s, 3H). HRMS calculated for C19H15FN4(M+H)+ 319.1354. found 319.1361.

reactant | 5-bromo-2-((5,7-dimethyl-1H-indol-4-yl)methyl)-7-fluoro-1H-benzo[d]imidazole | 0.121 mmol, 45 mg | BrC1=CC2=C(NC(=N2)CC2=C3C=CNC3=C(C=C2C)C)C(=C1)F | C18H15BrFN3
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Zinc cyanide | 0.375 mmol, 44 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(Ph3P)4 | 0.012 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc | [Zn] | Zn
catalyst | dppf | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-((5,7-Dimethyl-1H-indol-4-yl)methyl)-7-fluoro-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CNC2=C(C1)C)CC1=NC2=C(N1)C(=CC(=C2)C#N)F | C19H15FN4
